US03950333
Reaction of N-(3-isothiazolylmethyl)ethylenediamine with S-methyl-N-nitroisothiourea by the procedure of Example 2(ii) gives N-[2-(3-isothiazolylmethylamino)-ethyl]-N'-nitroguanidine.

reactant | N-(3-isothiazolylmethyl)ethylenediamine | S1N=C(C=C1)CNCCN | C6H11N3S
reactant | S-methyl-N-nitroisothiourea | CSC(N[N+](=O)[O-])=N | C2H5N3O2S
product | N-[2-(3-isothiazolylmethylamino)-ethyl]-N'-nitroguanidine | S1N=C(C=C1)CNCCNC(=N)N[N+](=O)[O-] | C7H12N6O2S
